data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1960,2173,[CH3:16][NH:17][C:18](=[O:19])[CH:20]=[NH+:21][C-:22]([C:23]([CH3:24])=[O:25])[C:26](=[O:27])[NH:28][CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[CH:20]([C:18]([NH:17][CH3:16])=[O:19])[NH:21][C:22]2([C:23]([CH3:24])=[O:25])[C:26](=[O:27])[NH:28][CH3:29],water,298.15,12.264420245700428,-42.937379572211945
4085,4678,[CH3:6][C:7](=[O:8])[C:9]([C:10]#[N:11])=[N+:12]([CH3:13])[C-:14]([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:9]([C:7]([CH3:6])=[O:8])([C:10]#[N:11])[N:12]([CH3:13])[C:14]1([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,49.22902362245998,44.61706322423523
14,16,[CH3:1][C:2]#[C:3][CH3:4].[CH3:5][C:6]([C:7]#[N:8])=[NH+:9][C-:10]([C:11]#[N:12])[C:13]#[N:14]>>[CH3:1][C:2]1=[C:3]([CH3:4])[C:10]([C:11]#[N:12])([C:13]#[N:14])[NH:9][C:6]1([CH3:5])[C:7]#[N:8],water,298.15,24.16757346471481,-34.125640009143595
4372,4993,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16](=[O:17])[O:18][CH3:19])[C:20](=[O:21])[O:22][CH3:23].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:20](=[O:21])[O:22][CH3:23])[N:14]=[C:15]1[C:16](=[O:17])[O:18][CH3:19],water,298.15,17.41329564233937,-37.085332268011975
2218,2459,[CH3:18][NH:19][C:20](=[O:21])[N-:22][N+:23]([CH3:24])=[C:25]([C:26]([CH3:27])=[O:28])[C:29](=[O:30])[O:31][CH3:32].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:25]([C:26]([CH3:27])=[O:28])([C:29](=[O:30])[O:31][CH3:32])[N:23]([CH3:24])[N:22]3[C:20]([NH:19][CH3:18])=[O:21],water,298.15,17.582070972488715,-36.52673239663534
479,524,[CH3:1][O:2][C:3]#[C:4][C:5]([CH3:6])=[O:7].[CH3:8][O:9][C:10](=[O:11])[CH:12]=[N+:13]([CH3:14])[N-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[CH:12]([C:10]([O:9][CH3:8])=[O:11])[N:13]([CH3:14])[N:15]1[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,19.79202641296424,-50.70052858641906
4060,4651,[CH2:1]=[CH2:2].[CH3:3][C:4](=[O:5])[C-:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)[N+:13]([CH3:14])=[C:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH2:1]1[CH2:2][C:6]([C:4]([CH3:3])=[O:5])([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[N:13]([CH3:14])[C:15]1([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,31.418879418746748,-18.65433928596855
2000,2221,[CH3:11][O:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][O:2][C:3]1=[C:4]([F:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([F:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:17]([C:18]([CH3:19])=[O:20])([C:21](=[O:22])[O:23][CH3:24])[NH:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,30.914745672384424,-6.235880103903567
2203,2442,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([C:17](=[O:18])[NH:19][CH3:20])[N+:21]([CH3:22])=[C:23]([C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:23]([C:24]([CH3:25])=[O:26])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:21]([CH3:22])[C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:17](=[O:18])[NH:19][CH3:20],water,298.15,37.6698652963088,-14.090572269242802
3450,3928,[CH3:10][C:11](=[O:12])[N:13]=[N+:14]([CH3:15])[N-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:13]([C:11]([CH3:10])=[O:12])[N:14]([CH3:15])[N:16]1[C:17]#[N:18],water,298.15,23.964139100317613,-10.139398929391003
1266,1384,[CH3:10][O:11][C:12](=[O:13])[CH-:14][N+:15]([CH3:16])=[C:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25].[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]12[C:3]([F:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[CH:14]([C:12]([O:11][CH3:10])=[O:13])[N:15]([CH3:16])[C:17]2([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,14.74491873087229,-39.61350717193445
